### ISSUE TITLE
`apply_fun`: "internal exception: postpone"

### ISSUE THREAD

**Issue by ericrbg** [leanprover-community/mathlib4#9303]
```lean
import Mathlib.Tactic.ApplyFun

example (a b : Nat) (h : a = b) : False := by
  apply_fun ((·) + 1) at h
```

I think this is nonsense syntax, I don't understand how the `(·)` syntax is parsed as, but the error message definitely shouldn't be that

**Comment by sven-manthe** [comment]
I also found this, but have a slightly different MWE avoiding this syntax:
```
import Mathlib.Tactic.ApplyFun

def eval {α} (s : ℕ → α) (n : ℕ) : α := s n
example {x : ℕ → ℕ} (h : x = x) : True := by
  --apply_fun (fun f ↦ eval f 0) at h --works
  apply_fun (eval _ 0) at h
```

**Comment by kmill** [comment]
This is the same as
```
example (a b : Nat) (h : a = b) : False := by
  apply_fun (id + 1) at h
```
I guess that somehow the way that `id + 1` is being elaborated is triggering postponement that's somehow not being caught.

The relevant code is going to be the `withCollectingNewGoalsFrom` block in `Mathlib.Tactic.applyFunHyp`.
